US07067517B2
Methyl-phenyl-carbamic acid 4-(cyclopropylmethyl-carbamoyl)-phenyl ester
The title product was prepared from cyclopropylmethylamine and 4-(methyl-phenyl-carbamoyloxy)-benzoic acid 2,5-dioxo-pyrrolidin-1-yl ester. The crude product was used without further purification (100%, semi-crystal oil). HPLC-MS m/z=325.1 (M+1), Rt: 3.40 min.

reactant | cyclopropylmethylamine | C1(CC1)CN | C4H9N
reactant | 4-(methyl-phenyl-carbamoyloxy)-benzoic acid 2,5-dioxo-pyrrolidin-1-yl ester | O=C1N(C(CC1)=O)OC(C1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O)=O | C19H16N2O6
product | Methyl-phenyl-carbamic acid 4-(cyclopropylmethyl-carbamoyl)-phenyl ester | C1(CC1)CNC(=O)C1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C19H20N2O3
